US07906549B2
2-methoxy-4-propylphenol
Palladium-carbon (5 mass %, 54 mg) was added to a 2-propanol (2.5 mL) solution of eugenol (CAS No. 97-53-0, 500 mg) under an argon atmosphere. The resultant mixture was vigorously stirred at an external temperature of 50° C. under a hydrogen flow for about 4.5 hours. The reaction solution was filtered through Celite, and the filtrate was concentrated, to thereby obtain the title compound (447 mg) having the following physical properties.

reactant | eugenol | C=1(C(O)=CC=C(CC=C)C1)OC | C10H12O2
catalyst | Palladium-carbon | 54 mg | [C].[Pd]
solvent | 2-propanol | 2.5 mL | CC(C)O | C3H8O
product | 2-methoxy-4-propylphenol | 447 mg | COC1=C(C=CC(=C1)CCC)O | C10H14O2
